US09382218B2
N*3*-(3-Trifluoromethyl-phenyl)-[1,2,4]oxadiazole-3,5-diamine (Compound 4)
Sodium methanolate (9.26 ml, 4.63 mmol, Eq: 3.00) was added into a solid hydroxylamine hydrochloride (322 mg, 4.63 mmol, Eq: 3.00) at rt. Stirred at rt for 0.5 hrs, a solution of (Z)-methyl N′-cyano-N-(3-(trifluoromethyl)phenyl)carbamimidothioate (400 mg, 1.54 mmol, Eq: 1.00) in ethanol was added and the mixture was heated to 63° C. overnight.

reactant | Sodium methanolate | 4.63 mmol, 9.26 ml | C[O-].[Na+]
reactant | hydroxylamine hydrochloride | 4.63 mmol, 322 mg | Cl.NO
reactant | (Z)-methyl N′-cyano-N-(3-(trifluoromethyl)phenyl)carbamimidothioate | 1.54 mmol, 400 mg | C(#N)\N=C(\NC1=CC(=CC=C1)C(F)(F)F)/SC | C10H8F3N3S
solvent | ethanol | C(C)O | C2H6O
product | N*3*-(3-Trifluoromethyl-phenyl)-[1,2,4]oxadiazole-3,5-diamine | FC(C=1C=C(C=CC1)NC1=NOC(=N1)N)(F)F | C9H7F3N4O
